US07271197B2
iv) N-Cyclohexyl-3-{[2-(4-[2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethoxy]methyl}-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide
A solution of N-cyclohexyl-3-(hydroxymethyl)-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide (207 mg) in DMF (5 ml) under nitrogen was treated with sodium hydride (60% dispersion in mineral oil, 24 mg) and the mixture stirred at 20° C. for 15 min. A solution of 2-(4-{2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethyl methanesulfonate [Example 15 i)] (170 mg) in DMF (3 ml) was added and the mixture stirred at 20° C. for 18 h. Phosphate buffer solution (pH 6.5, 15 ml) and water (15 ml) were added and the mixture was extracted with EtOAc. The combined extracts were washed with water and dried (Na2SO4). Solvent evaporation in vacuo gave a residue which was purified by “Flashmaster” chromatography on silica gel. Elution with EtOAc-cyclohexane (2:3) gave the title compound (125 mg). LCMS RT=4.35 min.

reactant | N-cyclohexyl-3-(hydroxymethyl)-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide | 207 mg | C1(CCCCC1)N(S(=O)(=O)C1=CC(=CC=C1)CO)COCC[Si](C)(C)C | C19H33NO4SSi
reactant | sodium hydride | 24 mg | [H-].[Na+]
reactant | 2-(4-{2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethyl methanesulfonate | CS(=O)(=O)OCCOC1=CC=C(C=C1)CCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C24H29NO8S
reactant | Phosphate | 15 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 15 ml | O | H2O
product | N-Cyclohexyl-3-{[2-(4-[2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethoxy]methyl}-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide | 125 mg | C1(CCCCC1)N(S(=O)(=O)C1=CC(=CC=C1)COCCOC1=CC=C(C=C1)CCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O)COCC[Si](C)(C)C | C42H58N2O9SSi
